US07226945B2
1) Synthetic method B: Synthesis of 1-(2-fluoro-6-hydroxy-4-methoxyphenyl)-2-(4-methoxyphenyl)ethanone
To 1,2-dichloroethane (40 mL) were added anhydrous aluminum chloride (4.27 g) and zinc chloride (436 mg), followed by stirring 15 min. Under ice-cooling, a solution of 1,3-dimethoxy-5-fluorobenzene (5 g) in 1,2-dichloroethane (15 mL) was added. The mixture was cooled to −10° C. and 4-methoxyphenylacetyl chloride (4.9 mL) in dichloroethane (10 mL) was added drop-wise. The mixture was stirred 30 min at −10° C., and 1 h at room temperature and then heated to reflux for 2 h. The mixture was cooled at 0° C., poured carefully into ice-water and extracted twice with dichloromethane. The dichloromethane layer was dried over MgSO4 and evaporated in vacuo to give the title compound (9.1 g); 1H NMR (CDCl3): 13.23 (s, 1H), 7.17 (d, 2H, J=8.4 Hz), 6.88 (d, 2H, J=8.4 Hz), 6.24 (d, 1H, J=2.1 Hz), 6.18 (dd, 1H, J=13.8 Hz, J′=2.1 Hz), 4.20 (d, 2H, J=3.9 Hz), 3.82 (s, 3H), 3.80 (s, 3H); MS: 291 (MH+); containing 1-(4-fluoro-2-hydroxy-6-methoxyphenyl)-2-(4-methoxyphenyl)ethanone as a by-product. 1H NMR (CDCl3): 13.62 (s, 1H), 7.2–6.0 (6H), 4.29 (s, 2H), 3.90 (s, 3H), 3.81 (s, 3H).

reactant | aluminum chloride | 4.27 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-dimethoxy-5-fluorobenzene | 5 g | COC1=CC(=CC(=C1)F)OC | C8H9FO2
reactant | 4-methoxyphenylacetyl chloride | 4.9 mL | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
catalyst | zinc chloride | 436 mg | [Cl-].[Zn+2].[Cl-]
solvent | 1,2-dichloroethane | 40 mL | ClCCCl | C2H4Cl2
product | 1-(2-fluoro-6-hydroxy-4-methoxyphenyl)-2-(4-methoxyphenyl)ethanone | 9.1 g | FC1=C(C(=CC(=C1)OC)O)C(CC1=CC=C(C=C1)OC)=O | C16H15FO4
